* amplificador de 3 etapas con capacitor de compenzacion y realimentacion *



V_V1        s 0 DC 0 AC 1
+SIN 1 1 1k 0 0 0
R_Rs		s		in+	1K
R_Rb		in+		0	100K
R_Ri		in+		in-	10meg
R_Rf1		in-		0	100K
C_Cgs1		in+		in-	1000p
G_G1		out1	0	in+	in-	10m
C_Cdg1		out1	in+	500p
C_Cds1		out1	0	500p
R_Ri2		out1	0	10K
C_Ce2		out1	0	14p
G_G2		out2	0	out1	0	10m
C_Cc2		out1	out2	1n
R_Ro2		out2	0	100K
C_Cgs2		out2	0	500p
G_G3		out		0	out2	out	10m
C_Cds2		out		0	500p
R_RL		out		0	10k  
R_Rf2		out		in-	1meg
